US07037938B2
To a solution of 4-hydroxy-2,3-dimethylbenzaldehyde (1.9 g) and pyridine (5.12 ml) in dichloromethane (40 ml) was added trifluoromethanesulfonic anhydride (2.34 ml) under nitrogen and the mixture was stirred at room temperature for 30 minutes and evaporated under reduced pressure. The residue was partitioned between ethyl acetate and water. The organic layer was separated, washed with saturated sodium bicarbonate solution and brine, dried over magnesium sulfate and evaporated under reduced pressure to give 4-formyl-2,3-dimethylphenyl trifluoromethanesulfonate (2.7 g).

reactant | 4-hydroxy-2,3-dimethylbenzaldehyde | 1.9 g | OC1=C(C(=C(C=O)C=C1)C)C | C9H10O2
reactant | pyridine | 5.12 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 2.34 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 4-formyl-2,3-dimethylphenyl trifluoromethanesulfonate | 2.7 g | FC(S(=O)(=O)OC1=C(C(=C(C=C1)C=O)C)C)(F)F | C10H9F3O4S
